US09302991B2
<Step-5>:(R)—N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 78% yield (0.17 g, a white solid) from 1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone (0.15 g, 0.65 mmol, Step-4) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone | 0.65 mmol, 0.15 g | FC=1C=C(C=NC1OCC(F)(F)F)C(C)=O | C9H7F4NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 78% yield | FC=1C=C(C=NC1OCC(F)(F)F)C(C)N[S@](=O)C(C)(C)C | C13H18F4N2O2S
